2102-02-17 06:09:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - In sinus
   - Increase ASA to 325mg PO daily
   - Not initiating heparin or warfarin
   - Confirmed DNI DNR
   - Scheduled for PEG/PEJ tomorrow (Friday)
   - LENIs negative
   - ECHO showed normal overall left ventricular systolic function.
   LVEF>55%. Right ventricular chamber size and free wall motion normal.
   No aortic regurgitation. Trivial mitral regurgitation. Tricuspid valve
   leaflets mildly thickened. Moderate [2+] tricuspid regurgitation. Mild
   pulmonary artery systolic hypertension. Small pericardial effusion.
   - Started on maint fluids
   - Received 2 boluses of 250mL NS for low BPs and low UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-16**] 09:48 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2102-2-16**] 10:15 AM
   Pantoprazole (Protonix) - [**2102-2-16**] 09:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-17**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 68 (68 - 85) bpm
   BP: 92/43(55) {86/35(48) - 111/56(64)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,600 mL
                                                                    705 mL
   PO:
             TF:
   IVF:
                                                                  1,600 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                    316 mL
                                                                    102 mL
   Urine:
                                                                    316 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,284 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Eyes: (Conjunctiva and lids: WNL)
   Neck: (Right carotid artery: No bruit), (Left carotid artery: No
   bruit), (Jugular veins: Not visible)
   Back / Musculoskeletal: (Chest wall structure: WNL)
   Respiratory: (Auscultation: Abnormal, crackles posteriorly at the
   bases)
   Cardiac: (Rhythm: Regular), (Palpation / PMI: WNL), (Auscultation: S1:
   WNL, S3: Absent, S4: Absent), (Murmur / Rub: Absent)
   Abdominal / Gastrointestinal: (Pulsatile mass: No),
   (Hepatosplenomegaly: No), (Other abnormalities: Abdomen is soft, nt/nd)
   Extremities / Musculoskeletal: (Digits and nails: WNL), (Dorsalis pedis
   artery: Right: 2+, Left: 2+), (Posterior tibial artery: Right: present,
   Left: present), (Edema: Right: 2+ with tenderness to palpation of
   posterior calf, Left: 0)
   Skin: ( WNL)
   Labs / Radiology
   220 K/uL
   8.1 g/dL
   510 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.0 mEq/L
   14 mg/dL
   108 mEq/L
   136 mEq/L
   24.2 %
   10.8 K/uL
        [image002.jpg]
                             [**2102-2-16**]  02:20 PM
                             [**2102-2-16**]  11:08 PM
                             [**2102-2-17**]  03:25 AM
   WBC
   10.8
   Hct
   24.2
   Plt
   220
   Cr
   0.5
   0.5
   TropT
   0.05
   Glucose
   347
   510
   Other labs: PT / PTT / INR:16.8/34.5/1.5, CK / CKMB /
   Troponin-T:216/4/0.05, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   83 y/oF with hip fracture and post-op atrial fibrillation, history of
   CHF with small LV, small pericardial effusion, troponin leak.
   .
   #) Atrial Fibrillation: Briefly present while on floor, now returned to
   sinus rhythm.  ? Etiology
 pain vs PE (LE swollen)
    - Given amiodarone 150mg IV x1, without significant drop in BP.
   - Continue IV beta blocker for now pending PO access
    - Has not been anticoagulated given brief occurences, but decision
   needs to be made for anticoagulation as an outpatient. Risk of fall vs.
   risk of stroke (which she has had before). CHADS2 score is 4,
   suggesting that anticoagulation is in the patient's favor.  Patient is
   on ASA, Plavix.  Would increase ASA to 325mg daily, will give PR as
   patient is currently NPO.
   - Likely had element of demand ischemia resulting in troponin leak,
   assuming that she has a baseline troponin that is undetectable. No
   significant ECG changes, will trend.
   - Repeat ECHO showed normal overall left ventricular systolic function.
   LVEF>55%. Right ventricular chamber size and free wall motion normal.
   No aortic regurgitation. Trivial mitral regurgitation. Tricuspid valve
   leaflets mildly thickened. Moderate [2+] tricuspid regurgitation. Mild
   pulmonary artery systolic hypertension. Small pericardial effusion.
   - LENIs to rule out DVT negative
   .
   #) Hip Fx
    - S/p operative repair (KROD)
    - Ortho to follow
   -  WBAT
    - On Lovenox
   .
   #) h/o Stroke
    - on Clopidogrel, ASA
   .
   #) CHF
   - Preserved EF, hyperdynamic with small LV suggesting volume
   sensitivity
   - Will stop/hold lasix for now given AF
   - Seems dry on exam
   .
   #) Anemia (Blood Loss)
   - Hct stable now at 26, might benefit from pRBC if need for IVF
   .
   #) Parkinson's : Continue outpatient meds
   .#) FEN:
    - strict NPO per S&S eval. Pending PEG/PEJ today
   - K, Phos, Mg repletion prn
   .
   #) Code Status: DNR DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-2-16**] 06:33 AM
   20 Gauge - [**2102-2-16**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-18 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt went down for J-tube placement, went into afib with RVR 150s, did
   not respond to IV Lopressor 10, improved after Amiodarone load with HR
   70s-80s. Started initially on Amiodarone gtt, then switched to
   Metoprolol IV. Might consider switching to PO tomorrow.
   - Went down after stabilized for 2nd attempt at J-tube. Was unable to
   place in IR, b/c colon was blocking site of entry. Now plan for J-tube
   placement by Surgery.
   - Spoke with daughter and pt. Placed NGT to start tube feeds and PO
   meds while pending J-tube.
   - Surgery came to eval, likely won't get surgery over the wkd, but will
   hold tube feeds after MN in case, and check with surgery in am.
   - Repeat crit stable (24-> 26)
   - Added ISS, but unclear if elevated serum glucoses are real (fs
   consistently in 100s, but serum glc when checked elevated to 500s).
   - Repleted Mg/K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-17**] 10:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-17**] 08:00 AM
   Metoprolol - [**2102-2-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 65 (62 - 127) bpm
   BP: 96/43(56) {83/36(48) - 114/53(65)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,630 mL
                                                                    543 mL
   PO:
             TF:
   IVF:
                                                                  2,350 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                    507 mL
                                                                    380 mL
   Urine:
                                                                    507 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,123 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Eyes: (Conjunctiva and lids: WNL)
   Neck: (Right carotid artery: No bruit), (Left carotid artery: No
   bruit), (Jugular veins: Not visible)
   Back / Musculoskeletal: (Chest wall structure: WNL)
   Respiratory: (Auscultation: Abnormal, crackles posteriorly at the
   bases)
   Cardiac: (Rhythm: Regular), (Palpation / PMI: WNL), (Auscultation: S1:
   WNL, S3: Absent, S4: Absent), (Murmur / Rub: Absent)
   Abdominal / Gastrointestinal: (Pulsatile mass: No),
   (Hepatosplenomegaly: No), (Other abnormalities: Abdomen is soft, nt/nd)
   Extremities / Musculoskeletal: (Digits and nails: WNL), (Dorsalis pedis
   artery: Right: 2+, Left: 2+), (Posterior tibial artery: Right: present,
   Left: present), (Edema: Right: 2+ with tenderness to palpation of
   posterior calf, Left: 0)
   Skin: ( WNL)
   Labs / Radiology
   220 K/uL
   8.1 g/dL
   663 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   14 mg/dL
   106 mEq/L
   134 mEq/L
   26.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2102-2-16**]  02:20 PM
                             [**2102-2-16**]  11:08 PM
                             [**2102-2-17**]  03:25 AM
                             [**2102-2-17**]  05:00 PM
                             [**2102-2-17**]  05:34 PM
   WBC
   10.8
   Hct
   24.2
   26.0
   Plt
   220
   Cr
   0.5
   0.5
   0.4
   TropT
   0.05
   Glucose
   [**Telephone/Fax (3) 4277**]
   Other labs: PT / PTT / INR:16.8/34.5/1.5, CK / CKMB /
   Troponin-T:216/4/0.05, Albumin:2.3 g/dL, Ca++:6.6 mg/dL, Mg++:1.6
   mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   83 y/oF with hip fracture and post-op atrial fibrillation, history of
   CHF with small LV, small pericardial effusion, troponin leak.
   .
   #) Atrial Fibrillation: Returned to AF while getting PEG placement.
   Aborted procedure after trial of lopressor.  Patient was then given
   Amiodarone 150mg x1 then uptitrated beta blocker. Converted to sinus
   rhythm yesterday.  Currently in sinus rhythm.
   - Titrate beta blocker as tolerated.
   - Monitor on telemetry.
   - Lovenox today.  Will hold lovenox prior to OR.  Decision previously
   was to hold coumadin given presentation with fall.
   .
   #) Hip Fx
    - S/p operative repair (KROD)
    - Ortho to follow
   -  WBAT
    - On Lovenox
   .
   #) h/o Stroke
   - on ASA.  Hold Plavix pending surgery
 will d/w surgery.
   - Plan for J-tube placement with surgery given inability to take POs
   (confirmed by speech/swallow).  Surgery is requesting CT scan to
   evaluate anatomy prior to placement.
   - NG tube in place.  Continue TF.  Will need to hold prior to PEJ
   placement once given date by surgery.  Likely OR tomorrow.
   .
   #) CHF
   - Preserved EF, hyperdynamic with small LV suggesting volume
   sensitivity
   - Will stop/hold lasix for now given AF
   - Seems dry on exam.
   .
   #) Anemia (Blood Loss)
   - Hct stable now at 26, transfuse for active bleeding.
   .
   #) Parkinson's : Continue outpatient meds
   .#) FEN:
   - NGT in place.  Begin TF.  Will need to hold at MN if OR tomorrow.
    - strict NPO per S&S eval. Pending PEG/PEJ today will return to lab
   - K, Phos, Mg repletion prn
   .
   #) Code Status: DNR DNI
   .
   #) Dispo: Call out to medicine service.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-17**] 02:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: